US06844344B2
Preparation of (2S)-1-(4-Benzo[b]furanoxy)-3-(4-(6-fluoronaphth-2-yl)-1,2,5,6-tetrahydropyrid-1-yl)-2-propanol.
A solution 4-(6-fluoronaphth-2-yl)-1,2,5,6-tetrahydropyridine (0.101 g, 0.444 mmol) and (S)-(+)-4-(oxiranylmethoxy)-benzo[b]furan (0.085 g, 0.444 mmol) in methanol (5 mL) was heated at reflux for 18 hours and then cooled and evaporated. The residue was purified by silica gel chromatography (dichloromethane/2% methanol in dichloromethane gradient elution) to give the title compound as a clear colorless oil (0.070 g, 38%). FDMS m/e=418 (M++1). C26H24FNO3.0.5H2O.

reactant | 4-(6-fluoronaphth-2-yl)-1,2,5,6-tetrahydropyridine | 0.444 mmol, 0.101 g | FC=1C=C2C=CC(=CC2=CC1)C1=CCNCC1 | C15H14FN
reactant | (S)-(+)-4-(oxiranylmethoxy)-benzo[b]furan | 0.444 mmol, 0.085 g | O1[C@@H](C1)COC1=CC=CC=2OC=CC21 | C11H10O3
solvent | methanol | 5 mL | CO | CH4O
product | (2S)-1-(4-Benzo[b]furanoxy)-3-(4-(6-fluoronaphth-2-yl)-1,2,5,6-tetrahydropyrid-1-yl)-2-propanol | 0.070 g, 38% | O1C2=C(C=C1)C(=CC=C2)OC[C@H](CN2CC=C(CC2)C2=CC1=CC=C(C=C1C=C2)F)O | C26H24FNO3
